US08648208B2
(1) 1-(4-Hydroxy-3-methylphenyl)-3-(3-methylbenzothiophen-2-yl)propan-1-one
Then, to a suspension of 55% sodium hydride (123 mg, 3.07 mmol) in THF (18 mL) was added dropwise over 10 minutes under N2 atmosphere, a solution of ethyl 3-(4-benzyloxy-3-methylphenyl)-3-oxopropionate (870 mg, 2.79 mmol) in THF (5 mL). After 20 minutes, to the resultant mixture was added dropwise over 10 minutes a solution of 2-chloromethyl-3-methylbenzothiophene (548 mg, 2.79 mmol) in THF (5 mL). The mixture was heated under reflux for 25 hours, cooled to room temperature, and concentrated under reduced pressure. The residue was heated in acetic acid (18 mL) and concentrated hydrochloric acid (4 mL) at 110° C. for 20 hours. The reaction mixture was cooled at room temperature, extracted with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate solution, and saturated brine, successively. After drying over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1), to give the titled compound as a yellow crystal (790 mg, yield 95%).

reactant | sodium hydride | 3.07 mmol, 123 mg | [H-].[Na+]
reactant | ethyl 3-(4-benzyloxy-3-methylphenyl)-3-oxopropionate | 2.79 mmol, 870 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC(=O)OCC)=O)C | C19H20O4
reactant | 2-chloromethyl-3-methylbenzothiophene | 2.79 mmol, 548 mg | ClCC=1SC2=C(C1C)C=CC=C2 | C10H9ClS
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 1-(4-Hydroxy-3-methylphenyl)-3-(3-methylbenzothiophen-2-yl)propan-1-one | 790 mg, yield 95% | OC1=C(C=C(C=C1)C(CCC=1SC2=C(C1C)C=CC=C2)=O)C | C19H18O2S
